US07081461B1
A solution of 2-picolinic acid (10.7 g, 87 mmol) in thionyl chloride (50 ml) was heated at reflux for 18 hours before being cooled and evaporated in vacuo. The residue was treated with methanol (25 ml) and then added to a solution of sodium methoxide prepared from sodium (1.0 g, 43 mmol) and methanol (100 ml). The reaction was heated at reflux for 3 hours, cooled and evaporated in vacuo. The residue was partitioned between water and ethyl acetate and the organic phase was separated. Evaporation of the organic phase yielded methyl 4-methoxypicoline-2-carboxylate (6.00 g, 41% yield) as a white solid. b) Lithium aluminum hydride (16 ml of a 1.0 N solution in diethyl ether, 16 mmol) was added to a solution of methyl 4-methoxypicoline-2-carboxylate (2.70 g, 16 mmol) in diethyl ether (50 ml) at ambient temperature. The reaction was stirred for 1 hour, poured into an aqueous solution of Rochelle's salt (250 ml) and the reaction mixture extracted with ethyl acetate (3×50 ml). Purification of the crude product by flash chromatography on silica gel, eluting with dichloromethane-ethyl acetate, yielded 2-(hydroxymethyl)-4-methoxypyridine (800 mg, 36% yield) as a white solid. c) An analogous reaction to that described in example 42b, but starting with 2-(hydroxymethyl)-4-methoxypyridine (600 mg, 4.30 mmol), yielded 2-((4-methoxy-2-pyridyl)methoxy)-5-nitrotoluene (780 mg, 70% yield) as a yellow solid. d) An analogous reaction to that described in example 42c, but starting with 2-((4-methoxy-2-pyridyl)methoxy)-5-nitrotoluene (770 mg, 2.96 mmol) yielded 3-methyl-4-((4-methoxy-2-pyridyl)methoxy)aniline (680 mg, 99% yield) as a yellow solid.

reactant | Lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 4-methoxypicoline-2-carboxylate | 16 mmol, 2.70 g | COC1=CC(NC=C1)(C)C(=O)OC | C9H13NO3
reactant | Rochelle's salt | 250 ml | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-(hydroxymethyl)-4-methoxypyridine | 800 mg, 36% yield | OCC1=NC=CC(=C1)OC | C7H9NO2
